US04663343
A stirred mixture of 7-methyl-7-azabicyclo[4.1.0]heptane (5.0 ml, 39 mmol), piperidine (3.9 ml, 39 mmol) and 0.2 g of ammonium chloride dissolved in 0.4 ml of water was heated under reflux for 5.5 hours. Normal work-up of the reaction mixture followed by bulb-to-bulb distillation yielded 3.2 g (42%) of trans-N-methyl-2-(1-piperidinyl)cyclohexanamine as a colorless liquid, bp 210° C. (at a pressure of 2666 Pascal).

reactant | 7-methyl-7-azabicyclo[4.1.0]heptane | 39 mmol, 5.0 ml | CN1C2CCCCC12 | C7H13N
reactant | piperidine | 39 mmol, 3.9 ml | N1CCCCC1 | C5H11N
reactant | ammonium chloride | 0.2 g | [Cl-].[NH4+]
solvent | water | 0.4 ml | O | H2O
product | trans-N-methyl-2-(1-piperidinyl)cyclohexanamine | 3.2 g, 42% | CN[C@H]1[C@@H](CCCC1)N1CCCCC1 | C12H24N2
